*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL3215-681_freq port1 port2 PARAMS: Cpar=0.2pF Ind=0.68uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.028
+ C= {Cpar}
+ K1=0.000001
+ K2=0.12
+ K3= {Ind}
+ K4=0.03
+ K5=1.01E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2516.33751
.ends PFL3215-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL3215-681_imp port1 port2 PARAMS: Cpar=0.167pF Ind=0.68uH
X1 port1 port2 Model1D PARAMS:
+ R1=40
+ R2=0.028
+ C= {Cpar}
+ K1=0.000001
+ K2=0.12
+ K3= {Ind}
+ K4=0.03
+ K5=1.01E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2516.33751
.ends PFL3215-681_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL3215-102_freq port1 port2 PARAMS: Cpar=0.16pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.03
+ C= {Cpar}
+ K1=0.000041
+ K2=0.16
+ K3= {Ind}
+ K4=0.028
+ K5=8.1E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3198.44984
.ends PFL3215-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL3215-102_imp port1 port2 PARAMS: Cpar=0.144pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=40
+ R2=0.03
+ C= {Cpar}
+ K1=0.000041
+ K2=0.16
+ K3= {Ind}
+ K4=0.028
+ K5=8.1E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3198.44984
.ends PFL3215-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL3215-222_freq port1 port2 PARAMS: Cpar=0.18pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=60
+ R2=0.114
+ C= {Cpar}
+ K1=0.0004
+ K2=0.484
+ K3= {Ind}
+ K4=0.0747
+ K5=1.03E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7559.33366
.ends PFL3215-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL3215-222_imp port1 port2 PARAMS: Cpar=0.16pF Ind=2.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=60
+ R2=0.114
+ C= {Cpar}
+ K1=0.0004
+ K2=0.484
+ K3= {Ind}
+ K4=0.0747
+ K5=1.03E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7559.33366
.ends PFL3215-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL3215-332_freq port1 port2 PARAMS: Cpar=0.15pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=60
+ R2=0.175
+ C= {Cpar}
+ K1=1E-06
+ K2=0.58
+ K3= {Ind}
+ K4=0.125
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8758.14289
.ends PFL3215-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL3215-332_imp port1 port2 PARAMS: Cpar=0.132pF Ind=3.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=60
+ R2=0.175
+ C= {Cpar}
+ K1=1E-06
+ K2=0.58
+ K3= {Ind}
+ K4=0.125
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8758.14289
.ends PFL3215-332_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL3215-472_freq port1 port2 PARAMS: Cpar=0.18pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=98
+ R2=0.332
+ C= {Cpar}
+ K1=0.0004
+ K2=0.85
+ K3= {Ind}
+ K4=0.162
+ K5=9.95E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10923.4973
.ends PFL3215-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL3215-472_imp port1 port2 PARAMS: Cpar=0.162pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=98
+ R2=0.332
+ C= {Cpar}
+ K1=0.0004
+ K2=0.85
+ K3= {Ind}
+ K4=0.162
+ K5=9.95E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10923.4973
.ends PFL3215-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.75GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL3215-682_freq port1 port2 PARAMS: Cpar=0.163pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=130
+ R2=0.64
+ C= {Cpar}
+ K1=0.00049
+ K2=1.35
+ K3= {Ind}
+ K4=0.152
+ K5=9.7E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15926.3899
.ends PFL3215-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.75GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL3215-682_imp port1 port2 PARAMS: Cpar=0.153pF Ind=6.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=130
+ R2=0.64
+ C= {Cpar}
+ K1=0.00049
+ K2=1.35
+ K3= {Ind}
+ K4=0.152
+ K5=9.7E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15926.3899
.ends PFL3215-682_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.75GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL3215-103_freq port1 port2 PARAMS: Cpar=0.141pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=230
+ R2=1.29
+ C= {Cpar}
+ K1=0.00084
+ K2=2.11
+ K3= {Ind}
+ K4=0.15
+ K5=9.5E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=22700.8808
.ends PFL3215-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.75GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL3215-103_imp port1 port2 PARAMS: Cpar=0.136pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=230
+ R2=1.29
+ C= {Cpar}
+ K1=0.00084
+ K2=2.11
+ K3= {Ind}
+ K4=0.15
+ K5=9.5E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=22700.8808
.ends PFL3215-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL3215-153_freq port1 port2 PARAMS: Cpar=0.165pF Ind=15uH
X1 port1 port2 Model1A PARAMS:
+ R1=212
+ R2=1.8
+ C= {Cpar}
+ K1=0.00084
+ K2=3.07
+ K3= {Ind}
+ K4=0.3
+ K5=1.15E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=28961.6479
.ends PFL3215-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL3215-153_imp port1 port2 PARAMS: Cpar=0.157pF Ind=15uH
X1 port1 port2 Model1D PARAMS:
+ R1=212
+ R2=1.8
+ C= {Cpar}
+ K1=0.00084
+ K2=3.07
+ K3= {Ind}
+ K4=0.3
+ K5=1.15E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=28961.6479
.ends PFL3215-153_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.08GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL3215-333_freq port1 port2 PARAMS: Cpar=3.94pF Ind=33uH
X1 port1 port2 Model1A PARAMS:
+ R1=34
+ R2=1.7
+ C= {Cpar}
+ K1=0.0046
+ K2=5.89
+ K3= {Ind}
+ K4=1.79
+ K5=0.00000935
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19648.5982
.ends PFL3215-333_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL3215-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.08GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL3215-333_imp port1 port2 PARAMS: Cpar=2.899pF Ind=33uH
X1 port1 port2 Model1D PARAMS:
+ R1=34
+ R2=1.7
+ C= {Cpar}
+ K1=0.0046
+ K2=5.89
+ K3= {Ind}
+ K4=1.79
+ K5=0.00000935
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19648.5982
.ends PFL3215-333_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
